US07300947B2
2) 2,2-Dimethyl-1,3-dioxan-5-yl methanesulfonate
A 2,2-dimethyl-1,3-dioxolan-5-ol (743 mg) solution in tetrahydrofuran (10 mL) was cooled to 0° C. in nitrogen atmosphere. To the reaction mixture, triethylamine (1.87 mL) and methanesulfonyl chloride (520 μL) were successively added at 0° C., followed by 30 minutes' stirring. After addition of saturated aqueous ammonium chloride solution, the reaction mixture was extracted with ethyl acetate. The extract washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was removed by distillation to provide 837 mg of crude title compound as a colorless solid.

reactant | 2,2-dimethyl-1,3-dioxolan-5-ol | 743 mg | CC1(OC(CO1)O)C | C5H10O3
reactant | triethylamine | 1.87 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 520 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-1,3-dioxan-5-yl methanesulfonate | 837 mg | CS(=O)(=O)OC1COC(OC1)(C)C | C7H14O5S
